US08957064B2
Step 3: 5-chloro-6-(2,4-difluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidine
2.35 g (7.5 mmol) 5,7-Dichloro-6-(2,4-difluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidine are given in 189 mL ethanol, 135 mL water and 73 mL THF. 1.89 g (35.3 mmol) NH4Cl and 3.1 g (47.7 mmol) zinc powder are added and the mixture is stirred at room temperature for 3 h. The reaction mixture is filtered and the organic solvents are removed. The residue is diluted with water and extracted three times with ethyl acetate. The combined organic layers are washed with brine and dried over Na2SO4. After evaporation of the solvent, the residue is purified by chromatography. 1.2 g (51.6%) of the desired product are obtained.

reactant | 5,7-Dichloro-6-(2,4-difluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidine | 7.5 mmol, 2.35 g | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1)F)F)Cl)N=C(N2)C | C12H6Cl2F2N4
reactant | water | 135 mL | O | H2O
reactant | THF | 73 mL | C1CCOC1 | C4H8O
reactant | NH4Cl | 35.3 mmol, 1.89 g | [NH4+].[Cl-]
solvent | ethanol | 189 mL | C(C)O | C2H6O
catalyst | zinc | 47.7 mmol, 3.1 g | [Zn] | Zn
product | 5-chloro-6-(2,4-difluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidine | 1.2 g, 51.6% | ClC1=NC=2N(C=C1C1=C(C=C(C=C1)F)F)N=C(N2)C | C12H7ClF2N4
